US05045105
9.9 g of ethane 1,2-dithiol are added to 18.6 g of 2-chloro-5-nitrobenzaldehyde and 0.5 g of p-toluenesulfonic acid in 250 ml of toluene and the mixture is refluxed for 5 hours under a water separator. After the mixture has been cooled, the solvent is removed, the residue is stirred with petroleum ether and the product is filtered off and dried. 25.5 g of 4-chloro-3-(1,3-dithio-lan-2-yl)-nitrobenzene (mp. 130-131° C.) are obtained.

reactant | ethane 1,2-dithiol | 9.9 g | C(CS)S | C2H6S2
reactant | 2-chloro-5-nitrobenzaldehyde | 18.6 g | ClC1=C(C=O)C=C(C=C1)[N+](=O)[O-] | C7H4ClNO3
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluenesulfonic acid | 0.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 4-chloro-3-(1,3-dithio-lan-2-yl)-nitrobenzene | 25.5 g | ClC1=C(C=C(C=C1)[N+](=O)[O-])C1SCCS1 | C9H8ClNO2S2
